US06455520B1
Oxalyl chloride (0.34 ml) was added to a stirred mixture of 3-(N-isopropylpiperidin-4-yloxy)benzoic acid (0.782 g), DMF (2 drops) and methylene chloride (20 ml) which had been cooled in an ice bath. The resultant mixture was stirred at ambient temperature for 4 hours. The mixture was evaporated and the 3-(N-isopropylpiperidin-4-yloxy)benzoyl chloride so obtained was dissolved in methylene chloride (20 ml).

reactant | Oxalyl chloride | 0.34 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(N-isopropylpiperidin-4-yloxy)benzoic acid | 0.782 g | C(C)(C)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1 | C15H21NO3
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(N-isopropylpiperidin-4-yloxy)benzoyl chloride | C(C)(C)N1CCC(CC1)OC=1C=C(C(=O)Cl)C=CC1 | C15H20ClNO2
